US07273865B2
To a stirred solution of 79 mg (0.56 mmol) 4-fluoro-benzoic acid in 4 ml THF were added 225 mg (0.59 mmol) HATU and 0.12 ml (1.13 mmol) N-methylmorpholine and stirring continued at 30° C. for 8 h. 75 mg (0.28 mmol) 7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-ylamine was then added and stirring continued at 35° C. for 48 h. The reaction mixture was then partitioned between tetrahydrofuran and saturated brine. The organic phases was dried over sodium sulfate and concentrated in vacuo. Flash chromatography (ethyl acetate/heptane) followed by trituration in ether afforded 62 mg (56%) 4-fluoro-N-(7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-benzamide as a white crystalline solid. ES-MS m/e (%): 389 (M+H+, 100).

reactant | 4-fluoro-benzoic acid | 0.56 mmol, 79 mg | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | HATU | 0.59 mmol, 225 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | 1.13 mmol, 0.12 ml | CN1CCOCC1 | C5H11NO
reactant | 7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-ylamine | 0.28 mmol, 75 mg | COC=1C2=C(C(=NC1)N1CCOCC1)SC(=N2)N | C11H14N4O2S
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 4-fluoro-N-(7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-benzamide | 62 mg, 56% | FC1=CC=C(C(=O)NC=2SC=3C(=NC=C(C3N2)OC)N2CCOCC2)C=C1 | C18H17FN4O3S
